US05660974
A MeOH solution (75 mL) of N-isopropyl-N-(4-carbomethoxybenzyl)-hydroxylamine (13.2 g, 59.1 mmol) was heated to 60° C. and treated with NaOH (2.46 g, 61.5 mol) in water 50 (mL). The reaction was allowed to stir for 18 h under argon and was then filtered, concentrated to remove most of the MeOH, diluted with water (100 mL), an acidified to pH-4.5 with conc H2SO4. The white solid was stirred at ambient temperature for 3 h, isolated by filtration, washed with copious amounts of water and then dried in vacuo at 60° C. to give 10.34 g (83%) N-isopropyl-N-(4-carboxybenzyl)hydroxylamine. mp 201°-202° C.(dec). 1H NMR (DMSO-d6) δ 12.6 (br, 1), 7.83 (d, J=8.1 Hz, 2), 7.49 (s, 1), 7.41 (d, J=8.1 Hz, 2), 3.72 (s, 2), 2.85 (sept, J=6.4 Hz, 1), 1.02 (d, J=6.4 Hz, 6).

reactant | MeOH | 75 mL | CO | CH4O
reactant | N-isopropyl-N-(4-carbomethoxybenzyl)-hydroxylamine | 59.1 mmol, 13.2 g | C(C)(C)N(O)CC1=CC=C(C=C1)C(=O)OC | C12H17NO3
reactant | NaOH | 61.5 mol, 2.46 g | [OH-].[Na+]
solvent | water | O | H2O
product | N-isopropyl-N-(4-carboxybenzyl)hydroxylamine | 10.34 g, 83% | C(C)(C)N(O)CC1=CC=C(C=C1)C(=O)O | C11H15NO3
